US04095024
2 parts of monoethyl maleate are added with stirring to 25 parts of water containing 2 parts of p-hydrazinobenzene sulphonate and 1 part of sodium carbonate. The mixture is heated at 100° C for 5 hours. The resulting solution is warmed with sodium carbonate and the pH finally adjusted to 3-4 with hydrochloric acid. The 3carboxy-1-(4'-sulphophenyl)-5-pyrazolidone thus formed is filtered off and dried between 50°-100° C. The actual weight yield is 4 parts of strength 74% (determined by N.M.R.) which represents a yield of 76%.

reactant | monoethyl maleate | C(\C=C/C(=O)[O-])(=O)OCC
reactant | p-hydrazinobenzene sulphonate | N(N)C1=CC=C(C=C1)S(=O)(=O)[O-]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 3carboxy-1-(4'-sulphophenyl)-5-pyrazolidone | yield of 76% | C(=O)(O)C1NN(C(C1)=O)C1=CC=C(C=C1)S(=O)(=O)O | C10H10N2O6S
